US05552534
D. 1-Bromo-2,3,6,-tri-O-benzoyl-4-deoxy-α-D-glucopyranose
To a stirred solution of 1-O-acetyl-2,3,6-tri-O-benzoyl-4-deoxy-α-D-glucopyranose (0.137 g, 0.29 mmol) in 3.0 mL of dry dichloromethane at 0° C. was added 30% hydrogen bromide in acetic acid (0.07 mL, 0.33 mmol). The solution was stirred under argon at room temperature for 4 hours, diluted with ethyl acetate (100 mL) and extracted with a saturated solution of sodium bicarbonate. The organic layer was washed with a saturated solution of sodium chloride, dried over anhydrous sodium sulfate and evaporated under reduced pressure to yield the target compound as a colorless oil which solidified upon standing. Crystallization from ether and petroleum ether gave the target compound as white crystals (0.15 g, 100%).

reactant | 1-O-acetyl-2,3,6-tri-O-benzoyl-4-deoxy-α-D-glucopyranose | 0.29 mmol, 0.137 g | C(C)(=O)O[C@@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)C[C@H](O1)COC(C1=CC=CC=C1)=O | C29H26O9
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 0.33 mmol, 0.07 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-Bromo-2,3,6,-tri-O-benzoyl-4-deoxy-α-D-glucopyranose | Br[C@@]1(O)[C@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)C[C@H](O1)COC(C1=CC=CC=C1)=O | C27H23BrO8
